US06476040B1
Preparation of N-(3-ethylphenyl)-6-(2-methoxyethoxy)-7-benzyloxy-4-quinazolinamine
N-(3-ethylphenyl)-6,7-bis(2-methoxyethoxy)-4-quinazolinamine, prepared as described above (4.0 g, 10 mmol), solid anhydrous sodium hydroxide (104 mg, 2.6 mmol) and benzyl alcohol (20 mL) was heated at 150-152° C. for 23 hours. The reaction mixture was allowed to cool to room temperature and purified by column chromatography on silica gel using a gradient system with ethyl acetate/hexane as eluent to give a white solid which was dried under vacuum at 45-50° C. to give the title product. (2.52 g, 58%), mp 156-157° C.

reactant | N-(3-ethylphenyl)-6,7-bis(2-methoxyethoxy)-4-quinazolinamine | C(C)C=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)OCCOC)OCCOC | C22H27N3O4
reactant | sodium hydroxide | 2.6 mmol, 104 mg | [OH-].[Na+]
solvent | benzyl alcohol | 20 mL | C(C1=CC=CC=C1)O | C7H8O
product | N-(3-ethylphenyl)-6-(2-methoxyethoxy)-7-benzyloxy-4-quinazolinamine | C(C)C=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)OCCOC)OCC1=CC=CC=C1 | C26H27N3O3
